### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/Embedding): the left homology of an extension of homological complexes

### PR DESCRIPTION
**Pull request by joelriou**
Given an embedding `e : c.Embedding c'`, `K : HomologicalComplex C c`, and degrees such that `e.f j = j'`, we construct a left homology data for `K.extend e` in degree `j'` from a left homology data for `K` in degree `j`.

---

- [x] depends on: #18500

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Kernels.lean [hunk 1]
```diff
@@ -200,6 +200,33 @@ lemma KernelFork.IsLimit.isIso_ι {X Y : C} {f : X ⟶ Y} (c : KernelFork f)
...
+    {X' Y' : C} (g' : X' ⟶ Y') (e : X ≅ X')
+    (iff : ∀ ⦃W : C⦄ (φ : W ⟶ X), φ ≫ g = 0 ↔ φ ≫ e.hom ≫ g' = 0) :
+    IsLimit (KernelFork.ofι (f := g') (c.ι ≫ e.hom) (by simp [← iff])) :=
+  KernelFork.IsLimit.ofι _ _
+    (fun s hs ↦ hc.lift (KernelFork.ofι (ι := s ≫ e.inv)
+      (by rw [iff, Category.assoc, Iso.inv_hom_id_assoc, hs])))
+    (fun s hs ↦ by
+      rw [← cancel_mono e.inv, Category.assoc, Category.assoc, e.hom_inv_id]
+      dsimp
+      rw [Category.comp_id, Fork.IsLimit.lift_ι, Fork.ι_ofι])
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Kernels.lean:216]:
```suggestion
      simp)
```

**Comment by dagurtomas** [comment]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
